### ISSUE TITLE
simp_all [h], where h is a hypothesis, removes h

### ISSUE THREAD

**Issue by JLimperg** [leanprover/lean4#1853]
It seems like the `simp_all` logic that prevents hypotheses from self-simplifying to `True` does not fire if the hypothesis is given explicitly:

```lean
example (h : n = m) : n = 0 := by
  simp_all
  -- n m : ℕ
  -- h : n = m
  -- ⊢ m = 0

example (h : n = m) : n = 0 := by
  simp_all [h]
  -- n m : ℕ
  -- ⊢ m = 0
```

I discovered this because `simp_all?` suggests calls of the form `simp_all only [h]`:

```lean
import Mathlib

example (h : n = m) : n = 0 := by
  simp_all?
  -- Try this: simp_all only [h]
```

**Comment by leodemoura** [comment]
This is the intended behavior. The suggestion made by `simp_all?` is redundant. `simp_all only` already includes `h`. The `only` is instructing `simp_all` to not use the global simp theorem set, but it still includes all hypotheses.

**Comment by JLimperg** [comment]
Okay, then `simp_all?` should be changed to exclude hypotheses from the `simp only` list. (Including the hypotheses is not just redundant; it changes the observable behaviour.) This requires a change to `traceSimpCall`. I can prepare a patch.

**Comment by JLimperg** [comment]
It appears `simp_all` no longer self-simplifies and removes local hypotheses when they're provided explicitly:

```lean
example {m n : Nat} (h : n = m) : n = 0 := by
  simp_all [h]
  -- m n : Nat
  -- h : n = m
  -- ⊢ m = 0
  sorry
```

(Same result with `simp_all only [h]`.)

As such, I'll close this issue. `simp_all?` still suggests the redundant (and somewhat misleading) `simp_all only [h]`, but I'll open a separate issue for this.
